Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Possible syncopal episode and hypotension at ___ 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ Hx of perforated duodenal ulcer (___) s/p exploratory 
laparotomy and ___ patch as well as HTN and infra-renal AAA 
s/p endovascular stent repair (___) now presenting with 
hypotension from nursing home.

Story obtained form staff at ___ where patient 
lives and from his wife ___ who was with him earlier today. 
___ speaks broken ___ so some of history difficult. 
Patient himself has some cognitive deficits and is ___ 
speaking only.

___:
Patient went to get haircut with wife today. Was lethargic when 
returned so wife asked staff to evaluate. Poorly responsive to 
conversation for ___. Then started speaking again and acting 
better. Never lost conciousness. They put back in bed and vitals 
when back in bed showed low BP (80/50). RR and sats normal. HR 
64. Prior to this event had been feeling and acting normally 
that day and the preceeding few days. No antecedent illness.

History per Wife:
After hair cut he his put head down, not responding normally, 
white face. Skin cold but not sweating. Lasted ___. Then 
opened his eyes and said nothing was wrong. Patient had no 
complaints at that point. No vomiting. Wife goes to nursing home 
every day. Say he is doing okay in general but not drinking much 
water. By time reached hospital she felt he was acting normally.

EMS was called by nursing home. Found BP ___. EMS started IV and 
gave 200cc IVF and he became more responsive with better BP. Pt 
denied abd pain, nausea, vomiting, shortness of breath. Brought 
to ___ ER.

In the ED, initial VS were: 98 67 99/39 18 99%. BP mostly in 
___. Given 1L NS. Making urine. Has a foley. Initially a bit 
hypoxic so got CTA + abdomen which showed no significant 
abnormalities. FAST scan negative. Heart looked okay. Trop 
slightly up at 0.08. Full code per family (Dtr not involved in 
this discussion). Didn't seem that interested in central line or 
other aggressive moves. Given dose of vancomycin and were going 
to give levofloxacin but MICU team asked them to hold 
levofloxacin so not given although had been ordered. VS on 
transfer: 97.9 57 101/33 25 100%  

On arrival to the MICU, patient comfortable. Denies pain and 
specifically denies pain in the chest. No trouble breathing. 
Feels like getting some sleep. Other history difficult due to 
language.

 
Past Medical History:
1) Hypertension
2) Endovascular stent repair of AAA ___
3) R eye cataract extraction ___ R eye ptegygium removal ___ L eye cataract extraction ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On presentation:
Vitals: T: 98.4 BP: 138/47 P: 72 R: 18 O2: 100% on 2L NC  
General: Alert, aware in hospital, no acute distress  
HEENT: Sclera anicteric, dry MM, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to ausc b/l anteriorly, no wheezes, rales, ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no HSM
GU: foley in place 
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: alert, moving all ext, pupils equal, tongue midline

On discharge:
General: Alert, aware in hospital, no acute distress  
HEENT: Sclera anicteric, dry MM, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to ausc b/l anteriorly, no wheezes, rales, ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no HSM
GU: foley in place 
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: alert, moving all ext, pupils equal, tongue midline

 
Pertinent Results:
Labs:
___ 09:15PM   CK-MB-3 cTropnT-0.06*
___ 09:15PM   CK(CPK)-44*
___ 03:10PM   ___
___ 10:14AM BLOOD Glucose-115* UreaN-33* Creat-1.2 Na-137 
K-4.0 Cl-104 HCO3-26 AnGap-11
___ 09:15PM BLOOD CK-MB-3 cTropnT-0.06*
___ 02:20PM BLOOD pO2-154* pCO2-33* pH-7.45 calTCO2-24 Base 
XS-0

Imaging:
CXR ___:  IMPRESSION: Mild pulmonary edema 

CTA ___:  IMPRESSION: 
1.  No pulmonary embolism or acute aortic pathology.   
2.  Status post endovascular repair of infrarenal aortic 
aneurysm without 
evidence of endoleak. Minimal increase in size of aneurysm sac 
is noted since ___.   
3.  Bilateral upper lobe nodularity with retained secretions in 
the lower lobe airways could reflect aspiration or other 
inflammatory/infectious process.   
4.  6 mm right lower lobe nodule which three-month followup is 
recommended per ___ guidelines if high risk for 
malignancy (e.g. smoking) or six-month followup if low risk for 
malignancy. 
5.  Thickened but decompressed bladder, correlate with 
urinalysis. 

 
Brief Hospital Course:
The pt was admitted to the hospital for hypotension and 
bradycardia.  On the first hospital day a CTA was done that 
showed no pulmonary emboism and serial troponins were flat.  The 
pt improved dramatically with IV fluids and witholding his 
antihypertensives.  He was monitored on telemetry for 24 hours 
that showed continued bradycardia and stable blood pressures.

On the second hospital day he was still at baseline and had not 
had any evidence of returning hypertension.  He and his wife 
stated that he did not want a pacemaker and there was no 
evidence that the bradycardia was causing his symptoms.  It was 
thought that his hypotension was related to decreased PO intake 
and hypertensive medications.  After the observation period it 
was thought that he was safe to return home.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. Docusate Sodium 100 mg PO BID 
6. Lidocaine 5% Patch 1 PTCH TD DAILY 
7. Senna 2 TAB PO HS 
8. Tamsulosin 0.4 mg PO HS 
9. Acetaminophen 325-650 mg PO Q6H:PRN pain 
10. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea 
3. Aspirin 325 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Senna 2 TAB PO HS 
8. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Hypovolemia, Acute kidney injury, Bradycardia

Secondary diagnosis: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital. You were 
admitted with low blood pressures and were watched in the ICU. 
Your blood pressures returned to normal. We think that your 
blood pressures were probably low from using your 
hydrochlorothiazide while not taking in enough by mouth. Your 
other blood pressures medications may have contributed as well. 
You appeared dehydrated and were given IV fluids with 
improvement in your kidney function.

We stopped your blood pressure medications since these were 
likely contributing to your low blood pressure. You should 
continue to remain off these medications for the time being.
 
Followup Instructions:
___